US05067967
C. Preparation of 1,4-bisacetylamino-2-nitro-5-trifluoromethylbenzene
91.5 g (0.3 mol) of 1,4-bisacetylamino-2-trifluoromethylbenzene (prepared according to B.) are initially introduced into 300 ml of glacial acetic acid, and a mixture of 25 g of glacial acetic acid and 20 g of nitric acid (density 1.5) is added dropwise at 50° C. in the course of 60 minutes. The mixture is subsequently stirred at the same temperature for 12 hours and then poured onto 2.5 kg of ice. The product which has precipitated is filtered off with suction, washed with water and dried.

reactant | 1,4-bisacetylamino-2-trifluoromethylbenzene | 0.3 mol, 91.5 g | C(C)(=O)NC1=C(C=C(C=C1)NC(C)=O)C(F)(F)F | C11H11F3N2O2
reactant | nitric acid | 20 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 25 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1,4-bisacetylamino-2-nitro-5-trifluoromethylbenzene | C(C)(=O)NC1=C(C=C(C(=C1)C(F)(F)F)NC(C)=O)[N+](=O)[O-] | C11H10F3N3O4
